US06812224B2
3-Oxo-cyclohexylphosphonic Acid Diethylester 2(a)
0.52 mmol trimethylsilyltriflate is added dropwise to 11.4 mmol diethylphosphite and 12.4 mmol N,O-bis-(trimethylsilyl) acetamide in 5 ml dichlormethane at 0° C. . After 30 minutes of stirring at the same temperature 0.52 mmol 2-cyclohexen-1-one are added dropwise thereto and is stirred for 1 h. The enolsilane intermediate product is hydrolized by 3 ml 1 n HCl during 3 hours of stirring. The organic phase is separated, dried over magnesiumsulfate and concentrated. The raw product can be chromatographed on SiO2 and after concentration of the desired fractions results in 3-oxo-cyclohexylphosphonic acid diethylester 2(a) in a 95% yield.

reactant | trimethylsilyltriflate | 0.52 mmol | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | diethylphosphite | 11.4 mmol | C(C)OP(OCC)[O-]
reactant | 2-cyclohexen-1-one | 0.52 mmol | C1(C=CCCC1)=O | C6H8O
reactant | HCl | Cl | ClH
solvent | dichlormethane | 5 ml | ClCCl | CH2Cl2
product | 3-Oxo-cyclohexylphosphonic Acid Diethylester | 95% yield | C(C)OP(OCC)(=O)C1CC(CCC1)=O | C10H19O4P
